US04250085
In a manner analogous to that described in Example 3(ii), from the monobenzylamine salt of (1R)-1-[(N-benzyloxycarbonyl-sarcosyl-L-alanyl-L-seryl)amino]-ethylphosphonic acid there was obtained (1R)-1-(N-sarcosyl-L-alanyl-L-serylamino)-ethylphosphonic acid of melting point 259°-260° C. (decomposition); [α]D20 =-92.3° (c=0.5% in water).

reactant | monobenzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-benzyloxycarbonyl-sarcosyl-L-alanyl-L-seryl)amino]-ethylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N(C)CC(=O)N[C@@H](C)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)P(O)(O)=O | C19H29N4O9P
product | (1R)-1-(N-sarcosyl-L-alanyl-L-serylamino)-ethylphosphonic acid | N(C)CC(=O)N[C@@H](C)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)P(O)(O)=O | C11H23N4O7P
